US07560558B2
2-Amino-pyridine-3-carbaldehyde (2.0 g) and chloroacetone (1.5 g) were suspended in a 5 N aqueous sodium hydroxide solution (10 ml) and was allowed to stand in a hermetically sealed state for 3 days. The reaction solution was neutralized with 10% hydrochloric acid, and the precipitated crystal was then collected by filtration. Isopropanol was added to the crystal, and the mixture was heated under reflux. The reaction solution was cooled to room temperature, and the solvent was then removed by distillation. Hexane was added to the residue, and the precipitated crystal was collected by filtration and was washed with hexane to give 2-methyl-[1,8]naphthyridin-3-ol (1.05 g, yield 40%).

reactant | 2-Amino-pyridine-3-carbaldehyde | 2.0 g | NC1=NC=CC=C1C=O | C6H6N2O
reactant | chloroacetone | 1.5 g | ClCC(C)=O | C3H5ClO
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 5 N, 10 ml | [OH-].[Na+]
product | 2-methyl-[1,8]naphthyridin-3-ol | 1.05 g, yield 40% | CC1=NC2=NC=CC=C2C=C1O | C9H8N2O
